US07638541B2
4-{4-[(6-Fluoro-pyridin-3-ylamino)-methyl]-thiazol-2-yl}-piperidine-1-carboxylic acid tert-butyl ester
5-amino-2-fluoropyridine (0.476 g, 4.2 mmol) was added to 4-(4-Formyl-thiazol-2-yl)-piperidine-1-carboxylic acid tert-butyl ester (0.84 g, 2.8 mmol) in dry DCM (10 mL). Sodium triacetoxyborohydride (0.9 g, 4.2 mmol) was then added. The reaction was stirred for 3 hours at room temperature under N2. The organic layer was washed with 2M NaOH solution, water, brine, dried (MgSO4), and the solvent was removed in vacuo. The material was purified by silica gel chromatography (DCM/methanol: 10:1 v/v) to give the desired product. 1H NMR (CDCl3): δ 7.59-7.60 (1H, m), 7.06-7.10 (1H, m), 7.02 (1H, s), 6.76 (1H, dd, J=8.8, 3.6 Hz), 4.4 (2H, d), 4.20-4.31 (3H, m), 3.09-3.17 (1H, m), 2.8-2.95 (2H, m), 2.07-2.10 (2H, m), 1.77-1.47, (2H, m), 1.47 (9H, s).

reactant | 5-amino-2-fluoropyridine | 4.2 mmol, 0.476 g | NC=1C=CC(=NC1)F | C5H5FN2
reactant | 4-(4-Formyl-thiazol-2-yl)-piperidine-1-carboxylic acid tert-butyl ester | 2.8 mmol, 0.84 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C=1SC=C(N1)C=O | C14H20N2O3S
reactant | Sodium triacetoxyborohydride | 4.2 mmol, 0.9 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-{4-[(6-Fluoro-pyridin-3-ylamino)-methyl]-thiazol-2-yl}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C=1SC=C(N1)CNC=1C=NC(=CC1)F | C19H25FN4O2S
